US08492378B2
A mixture of the obtained 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide, triethylamine (5.6 mL, 40.4 mmol), carbon disulfide (18.2 mL, 303 mmol) and ethanol (70 mL) was heated under reflux for 5 hr. After cooling, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/2) and recrystallized from hexane/ethyl acetate to give 5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol.

reactant | 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C(=O)NN)(F)F | C16H11F3N2O3
reactant | triethylamine | 40.4 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 303 mmol, 18.2 mL | C(=S)=S | CS2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)S)(F)F | C17H9F3N2O3S
